US07572809B2
Similar procedure as described in example 9B was used, starting from 5-Bromo-2-cyanomethyl-benzoic acid, 3-amino-5-methylpyrazol and acetic acid to give 7-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol. LC-MS: m/e 319 (MH+).

reactant | 5-Bromo-2-cyanomethyl-benzoic acid | BrC=1C=CC(=C(C(=O)O)C1)CC#N | C9H6BrNO2
reactant | 3-amino-5-methylpyrazol | NC1=NNC(=C1)C | C4H7N3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 7-Bromo-3-(5-methyl-1H-pyrazol-3-ylamino)-isoquinolin-1-ol | BrC1=CC=C2C=C(N=C(C2=C1)O)NC1=NNC(=C1)C | C13H11BrN4O
